US06469004B1
Step a: Preparation of 7-fluoro-6-(4-iodo-2-methyl-phenylamino)-1H-benzoimidazole-5-carboxylic acid O-(tetrahydro-2H-pyran-2-yl)-oxyamide
A solution comprised of 7-fluoro-6-(4-iodo-2-methyl-phenylamino)-1H-benzoimidazole-5-carboxylic acid, O-(tetrahydro-2H-pyran-2-yl)-hydroxylamine (1.25 equiv.), benzotriazole-1-yl-oxy-tris-pyrrolidino-phosphonium hexafluorophosphate (1.25 equiv.), and diisopropylethylamine (3 equiv.) in 1:1 v/v tetrahydrofuran-dichloromethane is stirred for 30 minutes. The reaction mixture is concentrated in vacuo and the residue is purified by flash chromatography; elution with dichloromethane affords the desired product. The product may be recrystallized with an appropriate solvent like methanol if further purification is necessary.

reactant | 7-fluoro-6-(4-iodo-2-methyl-phenylamino)-1H-benzoimidazole-5-carboxylic acid | FC1=C(C(=CC2=C1NC=N2)C(=O)O)NC2=C(C=C(C=C2)I)C | C15H11FIN3O2
reactant | O-(tetrahydro-2H-pyran-2-yl)-hydroxylamine | 1.25 equiv. | O1C(CCCC1)ON | C5H11NO2
reactant | benzotriazole-1-yl-oxy-tris-pyrrolidino-phosphonium hexafluorophosphate | 1.25 equiv. | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | diisopropylethylamine | 3 equiv. | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran dichloromethane | O1CCCC1.ClCCl
product | 7-fluoro-6-(4-iodo-2-methyl-phenylamino)-1H-benzoimidazole-5-carboxylic acid O-(tetrahydro-2H-pyran-2-yl)-oxyamide | O1C(CCCC1)ONC(=O)C1=CC2=C(NC=N2)C(=C1NC1=C(C=C(C=C1)I)C)F | C20H20FIN4O3
